US06362177B1
A solution of 4-amino-1-benzylpiperidine (3.80 g, 20 mmol) in CH2Cl2 (40 mL) was treated with N-(tert-butoxycarbonyl)glycine (3.48 g, 20 mmol), EDCI (4.02 g, 21 mmol) and HOBt (2.83 g, 21 mmol). After the reaction mixture was stirred at room temperature for 12 h, 2 N NaOH solution (20 mL) was added. The organic layer was separated, and the aqueous layer was extracted with dichloromethane (20 mL×2). The combined organic layers were washed with water (20 mL) and brine (20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography (SiO2, ethyl acetate/MeOH/Et3N=85/12/3) afforded 1-benzyl-4-{N-(tert-butoxycarbonyl)glycyl}aminopiperidine (6.59 g, 95%).

reactant | 4-amino-1-benzylpiperidine | 20 mmol, 3.80 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | N-(tert-butoxycarbonyl)glycine | 20 mmol, 3.48 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | EDCI | 21 mmol, 4.02 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 21 mmol, 2.83 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaOH | 2 N, 20 mL | [OH-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-{N-(tert-butoxycarbonyl)glycyl}aminopiperidine | 6.59 g, 95% | C(C1=CC=CC=C1)N1CCC(CC1)NC(CNC(=O)OC(C)(C)C)=O | C19H29N3O3
